US04631270
2-Mercapto-4-Benzyl-Thiazoline
A total of 75 mmoles of Phe in 225 mmoles of ethanol containing 300 mmoles of carbon disulfide and 75 mmoles of solid potassium hydroxide is added with stirring while maintaining the temperature below 40° C. The temperature is then raised to 40° C. and the reaction mixture held in a closed vessel for 12 hours. At the end of this period, the alcohol and carbon disulfide are removed by rotary evaporation. The residue is suspended in a small amount of cold water, and the product recrystallized from the water-ethanol mixture.

reactant | Phe | 75 mmoles | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | ethanol | 225 mmoles | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | carbon disulfide | C(=S)=S | CS2
product | 2-Mercapto-4-Benzyl-Thiazoline | SC=1SCC(N1)CC1=CC=CC=C1 | C10H11NS2
